US07615642B2
2-tert-Butyl-N-cyclohexyl-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (82 mg, 0.22 mmol), cyclohexyl(methyl)amine (50 mg, 0.44 mmol) and DMAP (54 mg, 0.44 mmol) in MeCN (4 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 58 mg (59% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.22-1.32 (m, 2 H), 1.33-1.44 (m, 4 H), 1.47-1.62 (m, 6 H), 1.65 (s, 9 H), 1.66-1.74 (m, 2 H), 2.27-2.44 (m, 1 H), 2.76 (s, 3 H), 3.29-3.38 (m, 2 H), 3.68-3.81 (m, 1 H), 3.87-3.97 (m, 2 H), 4.50 (d, J=7.42 Hz, 2 H), 7.89 (dd, J=8.79, 1.76 Hz, 1 H), 8.00 (d, J=8.79 Hz, 1 H), 8.12 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=448.0; Anal. Calcd for C24H37N3O3S+1.00 TFA+0.30 EtOAc+0.2H2O (591.70): C, 55.21; H, 6.95; N, 7.10. Found: C, 55.22; H, 6.85; N, 7.08.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.22 mmol, 82 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | cyclohexyl(methyl)amine | 0.44 mmol, 50 mg | C1(CCCCC1)NC | C7H15N
catalyst | DMAP | 0.44 mmol, 54 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 2-tert-Butyl-N-cyclohexyl-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N(C)C2CCCCC2 | C24H37N3O3S
